US07651639B2
To 1000 g of 10% methoxybenzene sulfonic acid aqueous solution stirred at room temperature, 30 g of calcium hydroxide was added. The stirring was continued while measuring the pH value. At the time when the pH value reached 6, approximately, filtration was done by using a 0.4 μm glass filter to remove the insoluble components, so as to obtain a calcium methoxybenzenesulfonate aqueous solution.

reactant | methoxybenzene sulfonic acid | 1000 g | COC1=C(C=CC=C1)S(=O)(=O)O | C7H8O4S
reactant | calcium hydroxide | 30 g | [OH-].[Ca+2].[OH-]
product | calcium methoxybenzenesulfonate | COC1=C(C=CC=C1)S(=O)(=O)[O-].[Ca+2].COC1=C(C=CC=C1)S(=O)(=O)[O-] | InChI=1S/2C7H8O4S.Ca/c2*1-11-6-4-2-3-5-7(6)12(8,9)10;/h2*2-5H,1H3,(H,8,9,10);/q;;+2/p-2
